US06518257B1
(i) Production of 4-bromo-1-fluoro-2-(methoxymethyl)benzene
To a solution of (5-bromo-2-fluorophenyl)methanol (5.00 g) in THF (100 ml) was added 60% sodium hydride (1.08 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Methyl iodide (3.80 ml) was added, and the mixture was stirred for 1.5 h. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by column chomatography (eluent, hexane→hexane:ethyl acetate=50:1) to give the title compound (4.86 g) as a brown oil.

reactant | (5-bromo-2-fluorophenyl)methanol | 5.00 g | BrC=1C=CC(=C(C1)CO)F | C7H6BrFO
reactant | sodium hydride | 1.08 g | [H-].[Na+]
reactant | Methyl iodide | 3.80 ml | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-bromo-1-fluoro-2-(methoxymethyl)benzene | 4.86 g | BrC1=CC(=C(C=C1)F)COC | C8H8BrFO
